US05985306
cis-4-(4-Hydroxyphenyl)-7-methoxy-3-phenylchromane
4-(4-Hydroxyphenyl)-7-methoxy-3-phenyl-3-chromene (77.7 g) was dissolved in ethanol (1500 ml) at 50° C. Palladium on carbon, 10%, 50% wet (6 g) was added to the solution and the mixture was hydrogenated at 55° C. and 1 atmosphere for 8 hours.

reactant | 4-(4-Hydroxyphenyl)-7-methoxy-3-phenyl-3-chromene | 77.7 g | OC1=CC=C(C=C1)C1=C(COC2=CC(=CC=C12)OC)C1=CC=CC=C1 | C22H18O3
solvent | ethanol | 1500 ml | C(C)O | C2H6O
catalyst | Palladium on carbon | [Pd] | Pd
product | cis-4-(4-Hydroxyphenyl)-7-methoxy-3-phenylchromane | OC1=CC=C(C=C1)[C@@H]1[C@@H](COC2=CC(=CC=C12)OC)C1=CC=CC=C1 | C22H20O3
